US08106190B2
Oxalyl chloride was added to a THF solution of 4-tert-butyl-2-fluorobenzoic acid and stirred for 1 hour, and aqueous ammonia was added to this. By post-treating the reaction liquid, 4-tert-butyl-2-fluorobenzamide was obtained.

reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-tert-butyl-2-fluorobenzoic acid | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)F | C11H13FO2
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 4-tert-butyl-2-fluorobenzamide | C(C)(C)(C)C1=CC(=C(C(=O)N)C=C1)F | C11H14FNO
